US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-phenyl-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one
A mixture of 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (0.1 g, 0.21 mmol), 4-pyridylboronic acid (52 mg, 0.42 mmol), cupric acetate (58 mg, 0.32 mmol) and triethylamine (60 μL, 0.42 mmol) in dichloromethane (2 mL) was stirred for 2 d at room temperature. Chromatography on silica gel (ethyl acetate) yielded the desired product (26 mg, 21%), MS: m/e=549.1 (M+H+).

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 0.21 mmol, 0.1 g | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
reactant | 4-pyridylboronic acid | 0.42 mmol, 52 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 0.42 mmol, 60 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-phenyl-3-pyridin-4-yl-1,3,8-triaza-spiro[4.5]decan-4-one | 26 mg, 21% | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)C3=CC=NC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C27H22F6N4O2
